US05047535
N6 -(1-Oxohexadecyl)-L-Lysine
Following the procedure of A. Paquet Can. J. Chem. 54, 733 (1976), 353 mg. (1 mmol) of the succinimidylester of hexadecanoic acid, prepared as in example 2, was suspended in 2 ml acetone and added to a solution of 183 mg (1 mmol) L-lysine hydrochloride and 0.27 ml (ca. 2 mmol) triethylamine in 2 ml water. The reaction mixture was stirred vigorously for at least 4 h, then neutralized with acetic acid and diluted with water. The precipitate was removed by filtration and washed with water, methanol and ether. Repeated crystallizations from acetic acid/water and acetic acid gave 280 mg (73%) colourless crystals, m.p. 240°-245° C. (reported 210°-220° C.)

reactant | hexadecanoic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | L-lysine hydrochloride | 1 mmol, 183 mg | Cl.N[C@@H](CCCCN)C(=O)O
reactant | triethylamine | ca. 2 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | water | 2 ml | O | H2O
product | N6 -(1-Oxohexadecyl)-L-Lysine | 280 mg, 73% | O=C(CCCCCCCCCCCCCCC)NCCCC[C@H](N)C(=O)O | C22H44N2O3
